US05331006
N-[(2-Adamantyloxy)carbonyl]-β-(2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-yl)-α-methyl-alanine diastereomeric mixture
To a stirred solution of N-[(2-adamantyloxy)carbonyl]-β-(2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-yl )-α-methyl-alanine methyl ester (diastereomeric mixture, 5.3 g, 10 mmol) in a mixture of 150 mL dioxane and 75 mL water was added lithium hydroxide (0.72 g, 30 mmol).

reactant | N-[(2-adamantyloxy)carbonyl]-β-(2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-yl )-α-methyl-alanine methyl ester | 10 mmol, 5.3 g | COC([C@@](NC(=O)OC1C2CC3CC(CC1C3)C2)(CC2N(C3=C(C(=NC2)C2=CC=CC=C2)C=CC=C3)C)C)=O | C32H39N3O4
reactant | lithium hydroxide | 30 mmol, 0.72 g | [OH-].[Li+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 75 mL | O | H2O
product | N-[(2-Adamantyloxy)carbonyl]-β-(2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-yl)-α-methyl-alanine | C12C(C3CC(CC(C1)C3)C2)OC(=O)N[C@@](CC2N(C3=C(C(=NC2)C2=CC=CC=C2)C=CC=C3)C)(C(=O)O)C | C31H37N3O4
